US07199244B2
Step B—Preparation of [2-(5-{2-[1-(3-trifluoromethyl-benzenesulfonyl)-pyrrolidin-2-yl]-acetylamino}-5,6,7,8-tetrahydro-naphthalen-2-yl)-allyl]-carbamic acid tert-butyl ester
A mixture of trifluoro-methanesulfonic acid 5-{2-[1-(3-trifluoromethyl-benzenesulfonyl)-pyrrolidin-2-yl]-acetylamino}-5,6,7,8-tetrahydro-naphthalen-2-yl ester (150 mg, 0.244 mmol, 1.0 eq), allyl carbamic acid tert-butyl ester (230 mg, 1.47 mmol, 6.0 eq), palladium acetate (Strem Chemicals, 3.3 mg, 0.015 mmol, 0.06 eq), DPPF (Aldrich, 36 mg, 0.064 mmol, 0.26 eq) and K2CO3 (Aldrich, 51 mg, 0.37 mmol, 1.5 eq) in CH3CN (2 mL) was flushed with N2 for 10 min. The reaction was heated to 80° C. and stirred at 80° C. under N2 for 20 h. The reaction was quenched with H2O (60 mL), extracted with CH2Cl2 (60 mL×3). The extract phase was washed with saturated NaCl, dried over Na2SO4, filtered and concentrated in vacuo. Flash column chromatography (silica gel, 0–4% MeOH—CH2Cl2) afforded the title compound as a colorless thin film. MS (ESI, pos. ion) m/z: 622 (M+1).

reactant | trifluoro-methanesulfonic acid 5-{2-[1-(3-trifluoromethyl-benzenesulfonyl)-pyrrolidin-2-yl]-acetylamino}-5,6,7,8-tetrahydro-naphthalen-2-yl ester | 0.244 mmol, 150 mg, 1.0 eq | FC(C=1C=C(C=CC1)S(=O)(=O)N1C(CCC1)CC(=O)NC1C=2C=CC(=CC2CCC1)OS(=O)(=O)C(F)(F)F)(F)F | C24H24F6N2O6S2
reactant | allyl carbamic acid tert-butyl ester | 1.47 mmol, 230 mg, 6.0 eq | C(C)(C)(C)OC(NCC=C)=O | C8H15NO2
reactant | K2CO3 | 0.37 mmol, 51 mg, 1.5 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 2 mL | CC#N | C2H3N
catalyst | palladium acetate | 0.015 mmol, 3.3 mg, 0.06 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | DPPF | 0.064 mmol, 36 mg, 0.26 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | [2-(5-{2-[1-(3-trifluoromethyl-benzenesulfonyl)-pyrrolidin-2-yl]-acetylamino}-5,6,7,8-tetrahydro-naphthalen-2-yl)-allyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(=C)C1=CC=2CCCC(C2C=C1)NC(CC1N(CCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O)=O | C31H38F3N3O5S
